US09163023B2
A solution of 2,4-dibromopyrimidine (50 mg, 0.210 mmol) and 1-(tetrahydro-2H-pyran-4-yl)piperazine, 2 Hydrochloride (51.1 mg, 0.210 mmol) in Ethanol (1 mL) was treated with DIPEA (0.147 mL, 0.841 mmol) and DMAP (cat.) and stirred at ambient temperature for 1 h. The reaction mixture was concentrated in vacuo and triturated with water, filtered and the solid washed with water then dried in vacuo to provide 2-bromo-4-(4-(tetrahydro-2H-pyran-4-yl)piperazin-1-yl)pyrimidine (43 mg, 0.130 mmol, 61.9% yield) as an off-white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.54 (s, 2H) 1.73 (br. s., 2H) 2.48 (br. s., 1H) 2.61 (br. s., 4H) 3.38 (t, J=11.24 Hz, 2H) 3.65 (br. s., 4H) 4.02 (br. s., 2H) 6.40 (d, J=6.25 Hz, 1H) 7.95 (d, J=5.86 Hz, 1H). LC/MS (m/z) ES+=327 (M+1).

reactant | 2,4-dibromopyrimidine | 0.210 mmol, 50 mg | BrC1=NC=CC(=N1)Br | C4H2Br2N2
reactant | 1-(tetrahydro-2H-pyran-4-yl)piperazine | O1CCC(CC1)N1CCNCC1 | C9H18N2O
reactant | Hydrochloride | 0.210 mmol, 51.1 mg | Cl | ClH
reactant | DIPEA | 0.841 mmol, 0.147 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | Ethanol | 1 mL | C(C)O | C2H6O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-bromo-4-(4-(tetrahydro-2H-pyran-4-yl)piperazin-1-yl)pyrimidine | 0.130 mmol, 43 mg, 61.9% yield | BrC1=NC=CC(=N1)N1CCN(CC1)C1CCOCC1 | C13H19BrN4O
